US07524852B2
Synthesis of 1-(tert-butoxycarbonyl)-4-(3-pyrrolidin-1-ylpropyl)piperidin e-4-carboxylic acid for use in the synthesis of Compound 3-28
Ethyl 1-(tert-butoxycarbonyl)-4-(3-pyrrolidin-1-ylpropyl)piperidine-4-carboxylate (0.12 g, 0.33 mmol) prepared according to Process Step 2 was mixed with ethanol (1.8 mL) and aqueous sodium hydroxide solution (2.0 mol/L, 1.6 mL, 3.3 mmol), followed by stirring under reflux for fifteen hours. After adjusting the pH to 7.8 by adding diluted hydrochloric acid (6.0 mol/L) added under ice-cooling, the reaction mixture was extracted with n-butanol. The organic layer was dried over anhydrous sodium sulfate. After distilling off the solvent, the residue was dried under reduced pressure and thereby yielded 1-(tert-butoxycarbonyl)-4-(3-pyrrolidin-1-ylpropyl)piperidine-4-carboxylic acid (0.10 g, 91%).

reactant | Ethyl 1-(tert-butoxycarbonyl)-4-(3-pyrrolidin-1-ylpropyl)piperidine-4-carboxylate | 0.33 mmol, 0.12 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)OCC)CCCN1CCCC1 | C20H36N2O4
reactant | sodium hydroxide | 3.3 mmol, 2.0 mol/L, 1.6 mL | [OH-].[Na+]
reactant | hydrochloric acid | 6.0 mol/L | Cl | ClH
solvent | ethanol | 1.8 mL | C(C)O | C2H6O
product | 1-(tert-butoxycarbonyl)-4-(3-pyrrolidin-1-ylpropyl)piperidin e-4-carboxylic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)CCCN1CCCC1 | C18H32N2O4
